US06660744B1
tert-Butyl 4-[4-amino-3-(4-amino-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (600 mg, 1.41 mmol) was dissolved in pyridine (25 mL) and cooled to 0° C. m-Tolylisocyanate (206 mg, 1.54 mmol) was added and the reaction was stirred at 0° C. for 2.5 hours. The reaction mixture was concentrated under reduced pressure to yield the crude product as a brownish-yellow foam (841 mg). Purification by column chromatography on silica gel using a 25% to 50% ethyl acetate/heptane gradient followed by 5% methanol/dichloromethane as the eluent afforded tert-butyl 4-(4-amino-3-{3-fluoro-4-[(3-toluidinocarbonyl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate as a light yellow solid (243 mg, 0.434 mmol). HPLC-RT: 17.82 min. (flow rate: 1 mL/min λ=254 nm Gradient: 5% to 85% acetonitrile/0.1M aqueous ammonium acetate gradient over 20 min.; Deltapak C18, 300A, 5 μm, 150×3.9 mm column); m/z (MH+)=561.4.

reactant | tert-Butyl 4-[4-amino-3-(4-amino-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 1.41 mmol, 600 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N)F)C2CCN(CC2)C(=O)OC(C)(C)C | C21H26FN7O2
reactant | m-Tolylisocyanate | 1.54 mmol, 206 mg | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 4-(4-amino-3-{3-fluoro-4-[(3-toluidinocarbonyl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | 0.434 mmol, 243 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)NC=2C=C(C=CC2)C)F)C2CCN(CC2)C(=O)OC(C)(C)C | C29H33FN8O3
